US04710221
Liquified ammonia (4.4 mL, 180 mmol) was added to a stirred solution of methyl 2-(chlorosulfonyl)-4-ethoxybenzoate (22.1 g, 79.3 mmol) in dichloromethane (221 mL) at -70° C. The reaction mixture was allowed to warm to -10° C. and was held at this temperature for 30 minutes. The mixture was then poured into water (221 mL). More water and dichloromethane were used for rinsing, and tetrahydrofuran (ca. 40 mL) was also added. The layers were shaken and separated, and the aqueous layer was extracted with dichloromethane (2×221 mL). The combined dichloromethane solutions were washed with water (221 mL), and the aqueous wash was back-extracted with dichloromethane (ca. 120 mL). The combined dichloromethane solutions were dried (Na2SO4), and filtered. Rotary evaporation of the solvent left crude product as an off-white crystalline solid (18.1 g). This was dissolved in hot methanol (ca. 200 mL) and hot filtered. The solution was boiled down to a volume corresponding to 3 mL/g methanol. After seeding and cooling with the aid of an ice bath, the crystals were collected, rinsed with ice-cold methanol and hexanes, and dried. Methyl 2-(aminosulfonyl)-4-ethoxybenzoate (15.3 g) was obtained as white crystalline needles melting at 146°-148° C. PMR (CDCl3, 200 mHz): δ7.91 (d, 1H, H ortho to CO2CH3); 7.68 (d, 1H, H ortho to SO2NH2); 7.04 (dd, 1H, H para to SO2NH2); 5.91 (broad s, 2H, NH2); 4.14 (q, 2H, OCH2CH3); 3.95 (s, 3H, CO2CH3); 1.45 (t, 3H, OCH2CH3). IR (Nujol): 3348 (m, NH); 3241 (m, NH); 1692 (s, C=O) cm-1.

reactant | ammonia | 180 mmol, 4.4 mL | N | H3N
reactant | methyl 2-(chlorosulfonyl)-4-ethoxybenzoate | 79.3 mmol, 22.1 g | ClS(=O)(=O)C1=C(C(=O)OC)C=CC(=C1)OCC | C10H11ClO5S
reactant | water | 221 mL | O | H2O
solvent | dichloromethane | 221 mL | ClCCl | CH2Cl2
product | Methyl 2-(aminosulfonyl)-4-ethoxybenzoate | 15.3 g | NS(=O)(=O)C1=C(C(=O)OC)C=CC(=C1)OCC | C10H13NO5S
